US06800627B1
(RS) 2-tert-Butoxycarbonyl-7-iodo-1,2,3,4,10,10a-hexahydropyrazino[1,2-a]indole
Di-tert-butyl-dicarbonate (2.53 g, 12 mmol) was added to a stirred solution of 7-iodo-1,2,3,4,10,10a-hexahydropyrazino[1,2-a]indole in dichloromethane (50 mL) at 0° C. under Ar. The reaction was allowed to warm to room temperature and stirred for 2 h. Another portion of di-tert-butyl-dicarbonate (2 g) was added and the reaction was stirred at room temperature for 1 h. The mixture was washed with water (1×50 mL) and brine (1×50 mL). The combined aqueous layers were extracted with dichloromethane (1×50 mL) and the combined organic layers were dried (magnesium sulfate), filtered and the solvent removed under vacuum to leave a crude oil. The oil was purified by flash column chromatography [SiO2; ethyl acetate-heptane (9:1)] to give the product as a yellow oil (0.2 g, 9%). IR νmax (film)/cm−1 3510, 2975, 2927, 2855, 1737, 1692, 1601, 1573, 1479, 1457, 1417, 1365, 1306, 1263, 1240, 1214, 1163, 1127, 1048, 1024, 996, 964, 901, 879, 831, 805, 789, 770, 749, 715, 644, 615, 591, 561 and 514; NMR δH (400 MHz; CDCl3) 6.97 (1H, m), 6.79 (1H, d, J 7.5 Hz), 6.73 (1H, m), 3.41-3.44 (3H, m), 2.86-2.97 (5H, m), 2.49-2.55 (1H, m), 1.47 (9H, s).

reactant | Di-tert-butyl-dicarbonate | 12 mmol, 2.53 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 7-iodo-1,2,3,4,10,10a-hexahydropyrazino[1,2-a]indole | IC=1C=CC=2CC3N(C2C1)CCNC3 | C11H13IN2
reactant | di-tert-butyl-dicarbonate | 2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (RS) 2-tert-Butoxycarbonyl-7-iodo-1,2,3,4,10,10a-hexahydropyrazino[1,2-a]indole | 0.2 g, 9% | C(C)(C)(C)OC(=O)N1CC2N(C=3C=C(C=CC3C2)I)CC1 | C16H21IN2O2
